US07189712B2
N-[4-(4-methylpiperazin-1-yl)phenyl]-5-phenyl-1,3-oxazol-2-amine
Sodium hydride (60% in mineral oil, 0.51 g, 0.013 mol) was suspended in dry THF (8 mL) under an atmosphere of nitrogen. The suspension was treated with 4-(4-methylpiperazin-1-yl)-aniline (0.23 g9 1.0 mmol) and 2-chloro-5-phenyl-1,3-oxazole (0.19 g, 1.0 mmol) and heated to 60° C. and stirred for 18 h. The reaction was cooled to RT and quenched with methanol (10 drops). Silica gel was added and the solvent was evaporated under reduced pressure to dryness and purified by silica gel chromatography using 10% methanol in dichloromethane to elute the title compound (0.10 g, 31%). 1H NMR (400 MHz, d6-DMSO): δ 2.21 (s, 3H), 2.45 (m, 4H), 3.04 (m, 4H), 6.91 (d, J=8.97, 2H), 7.24 (t, J=7.32, 1H), 7.41 (m, 3H), 7.47 (d, J=8.97, 2H), 7.55 (d, J=7.51, 2H), 9.99 (s, 1H). MS (ES+, m/z)=335 (m+H)+.

reactant | Sodium hydride | 0.013 mol, 0.51 g | [H-].[Na+]
reactant | 4-(4-methylpiperazin-1-yl)-aniline | 1.0 mmol | CN1CCN(CC1)C1=CC=C(N)C=C1 | C11H17N3
reactant | 2-chloro-5-phenyl-1,3-oxazole | 1.0 mmol, 0.19 g | ClC=1OC(=CN1)C1=CC=CC=C1 | C9H6ClNO
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | N-[4-(4-methylpiperazin-1-yl)phenyl]-5-phenyl-1,3-oxazol-2-amine | CN1CCN(CC1)C1=CC=C(C=C1)NC=1OC(=CN1)C1=CC=CC=C1 | C20H22N4O
